US04555572
A mixture of 41.0 g of N,N-dimethyl-p-phenylenediamine, 100 ml of N,N-dimethylaniline, and 23.6 g of 2,6-dichloro-3-nitrobenzoic acid was heated for seven hours on a steam bath. The resulting cake was suspended in dichloromethane, filtered, and the solid washed with water. Recrystallization from DMF-ethanol provided 6-chloro-2[[4-(dimethylamino)phenyl]amino]-3-nitrobenzoic acid, mp 222°-223° C. (dec).

reactant | N,N-dimethyl-p-phenylenediamine | 41.0 g | CN(C1=CC=C(C=C1)N)C | C8H12N2
reactant | N,N-dimethylaniline | 100 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | 2,6-dichloro-3-nitrobenzoic acid | 23.6 g | ClC1=C(C(=O)O)C(=CC=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 6-chloro-2[[4-(dimethylamino)phenyl]amino]-3-nitrobenzoic acid | ClC1=CC=C(C(=C1C(=O)O)NC1=CC=C(C=C1)N(C)C)[N+](=O)[O-] | C15H14ClN3O4
